US04863947
Preparation N-(4-trifluoromethoxyphenyl)-3 -(4-chlorophenyl)-4-(2,2-dichlorovinyl)-4-methyl-4,5-dihydro-1H-pyrazole-1-carboxamide
To 6.5 g of triphenyl phosphine and 2.5 g of potassium t-butoxide dissolved in 75 ml of THF and cooled to -70° C. was added 3.5 g of chloroform. After stiring for 5 minutes a solution of 3.9 g of N-(4-trifluoromethoxyphenyl)-3-(4-chlorophenyl)-4-formyl-4-methyl-4,5-dihydro-1H-pyrazole-1-carboxamide in 10 ml of THF is added and the mixture is allowed to warm to 10° C. over 1 hour. The resulting mixture is partitioned between ether and water, dried, rotovaped and chromatographed (ether/hexane) on silica gel yielding 3.1 g of N-(4-trifluoromethoxyphenyl)-3-(4-chlorophenyl)-4-(2,2-dichlorovinyl)-4-methyl-4,5-dihydro-1H-pyrazole-1-carboxamide mp 138°-141° C. NMR and IR data were consistent with the structure.

reactant | triphenyl phosphine | 6.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium t-butoxide | 2.5 g | CC(C)([O-])C.[K+]
reactant | chloroform | 3.5 g | C(Cl)(Cl)Cl | CHCl3
reactant | N-(4-trifluoromethoxyphenyl)-3-(4-chlorophenyl)-4-formyl-4-methyl-4,5-dihydro-1H-pyrazole-1-carboxamide | 3.9 g | FC(OC1=CC=C(C=C1)NC(=O)N1N=C(C(C1)(C)C=O)C1=CC=C(C=C1)Cl)(F)F | C19H15ClF3N3O3
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-(4-trifluoromethoxyphenyl)-3 -(4-chlorophenyl)-4-(2,2-dichlorovinyl)-4-methyl-4,5-dihydro-1H-pyrazole-1-carboxamide | FC(OC1=CC=C(C=C1)NC(=O)N1N=C(C(C1)(C)C=C(Cl)Cl)C1=CC=C(C=C1)Cl)(F)F | C20H15Cl3F3N3O2
